US06964983B2
Synthesis of [5-hydroxy-2-methyl-4-(4′-trifluoromethyl-biphenyl-4-ylmethylsulfanyl)-phenoxy]-acetic acid (Compound 38)
A solution of [5-Methoxy-2-methyl-4-(4′-trifluoromethyl-biphenyl-4-ylmethylsulfanyl)-phenoxy]-acetic acid, prepared according to Example 4, (1.0 g, 2.2 mmol) in 75 mL DCM at 0° C., was treated with dropwise addition of BBr3 (5.5 mL of a 1.0 M solution in DCM). After 30 minutes, the reaction was carefully quenched with 50% NH4OH. The reaction was then acidified to pH 1 with conc. HCl, and extracted with EtOAC. The organic layer was dried (Na2SO4) and concentrated in vacuo. The crude reaction mixture was then taken up in MeOH, followed by addition of 50 μL H2SO4, and then refluxing for 3 hours. The reaction was then diluted with EtOAc, washed 1×50 mL water, dried (Na2SO4), and the reaction concentrated in vacuo. The resulting ester was purified by recrystallization from EtOAC/Hexanes. The ester was then saponified in the same manner as described for Example 1, to give the title compound in 37% overall yield. IR cm−1:3408, 1752, 1323; 400 MHz 1H NMR (DMSO-d6) δ 9.56 (s, 1H), 7.82 (d, 2H, J=8.4 Hz), 7.74 (d, 2H, J=8.4 Hz), 7.31 (d, 2H, J=8.4 Hz), 6.92 (s, 1H), 6.30 (s, 1H), 4.55 (s, 2H), 4.00 (s, 2H), 1.95 (s, 3H). Anal. Calc'd for C23H19F3NO4S.0.1 H2O C, 61.35; H, 4.30. found: C, 61.08; H, 3.92.

reactant | [5-Methoxy-2-methyl-4-(4′-trifluoromethyl-biphenyl-4-ylmethylsulfanyl)-phenoxy]-acetic acid | COC=1C(=CC(=C(OCC(=O)O)C1)C)SCC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C24H21F3O4S
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | H2SO4 | 50 μL | OS(=O)(=O)O | H2O4S
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [5-hydroxy-2-methyl-4-(4′-trifluoromethyl-biphenyl-4-ylmethylsulfanyl)-phenoxy]-acetic acid | OC=1C(=CC(=C(OCC(=O)O)C1)C)SCC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C23H19F3O4S
